US06887871B2
b) 4-Bromo-2,5-difluorobenzonitrile
4-Bromo-2,5-difluorobenzaldehyde (1.82 g, 8.3 mmol) and hydroxylamine-O-sulphonic acid (1.1 eq., 1.03 g) in water (40 ml) were heated to 100° C. for 6 h, cooled and extracted with ethyl acetate. The organic layer was dried (sodium sulphate) and evaporated to give the title compound as a pale yellow solid (1.2 g).

reactant | 4-Bromo-2,5-difluorobenzaldehyde | 8.3 mmol, 1.82 g | BrC1=CC(=C(C=O)C=C1F)F | C7H3BrF2O
reactant | hydroxylamine-O-sulphonic acid | 1.03 g, 1.1 eq. | NOS(=O)(=O)O | H3NO4S
solvent | water | 40 ml | O | H2O
product | 4-Bromo-2,5-difluorobenzonitrile | 1.2 g | BrC1=CC(=C(C#N)C=C1F)F | C7H2BrF2N
